US08835423B2
Intermediate D-6: 6,11-Dihydro-5H-dipyrido[2,3-b:3′,4′-f]azepin-5-one
Dess-Martin periodinane (0.810 g, 1.91 mmol) was added to a solution of 6,11-dihydro-5H-dipyrido[2,3-b:3′,4′-f]azepin-5-ol (0.370 g, 1.74 mmol, Intermediate D-5) in dichloromethane (30 mL) under an atmosphere of nitrogen and stirred for 1 h. The yellow mixture was poured into a solution of sodium bisulfate in water and stirred for 5 minutes. The mixture was then diluted with dichloromethane and sodium bicarbonate was added to adjust the pH to 8-9. The mixture was extracted three times with dichloromethane and the combined extracts were dried over sodium sulfate, filtered, and concentrated. The crude product residue was adsorbed onto silica gel and chromatographed on a silica gel column eluting with 10% methanol/dichloromethane to provide the desired product as a light tan solid (330 mg, 90%). 1H NMR (DMSO-d6): δ 10.55 (s, 1H), 8.51 (dd, 1H), 8.42 (s, 1H), 8.35 (d, 1H), 8.18 (dd, 1H), 7.33 (d, 1H), 7.06 (dd, 1H), 3.82 (s, 2H). LC/MS: 212 (M+H)+.

reactant | Dess-Martin periodinane | 1.91 mmol, 0.810 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | 6,11-dihydro-5H-dipyrido[2,3-b:3′,4′-f]azepin-5-ol | 1.74 mmol, 0.370 g | N1=CC=CC2=C1NC1=C(CC2O)C=NC=C1 | C12H11N3O
reactant | sodium bisulfate | S([O-])(O)(=O)=O.[Na+]
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
solvent | water | O | H2O
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | 6,11-Dihydro-5H-dipyrido[2,3-b:3′,4′-f]azepin-5-one | 330 mg, 90% | N1=CC=CC2=C1NC1=C(CC2=O)C=NC=C1 | C12H9N3O
